US05273986
A solution composed of 1.0 g of 3-carboxymethyl benzoic acid methyl ester, 1.3 g of (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine, 1.0 g of N-ethyl-N-(dimethylaminopropyl) carbodiimide, 2.4 g of 4-dimethylaminopyridine and 75 ml of methylene chloride was stored at 0° C. After 16 hr., the reaction mixture was washed with 75 ml of water, dried (MgSO4) and the solvents removed by rotary evaporation. The residual materials were triturated with ethyl acetate/hexane to yield 1.7 g of (E)-3-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid methyl ester; m.p. 119°-120° C.

reactant | 3-carboxymethyl benzoic acid methyl ester | 1.0 g | COC(C1=CC(=CC=C1)CC(=O)O)=O | C10H10O4
reactant | (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine | 1.3 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C15H16N2S
catalyst | 4-dimethylaminopyridine | 2.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid methyl ester | 1.7 g | COC(C1=CC(=CC=C1)CC(=O)NC1=CC(=CC=C1)\C=C\C=1SC=C(N1)C1CCC1)=O | C25H24N2O3S
